US04751305
A. 8-(2-Pyrimidinyl)-1,4-dioxa-8-azaspiro[4.5]decane
A mixture of 10 g (0.0873 mol) of 2-chloropyrimidine, 38 g (0.2654 mol) of 1,4-dioxa-8-azaspiro[4.5]decane, 18 g (0.130 mol) of K2CO3, and 100 ml of dimethylformamide is stirred at 100°-110° C. for 4 days. The reaction mixture is allowed to cool to ambient temperature, diluted with water and extracted with ethyl acetate. The combined organic extracts are washed copiously with water, then brine, dried over Na2SO4, and concentrated in vacuo to give a waxy solid. Trituration with ether furnishes 9.25 g (48%) of title compound: IR (KBr) 1670 and 1585 cm-1 ; NMR (CDCl3) δ8.30 (t, 1H), 6.46 (d, 2H), 4.02 (s, 4H), 3.98-3.88 (m, 4H), and 1.90-1.66 (m, 4H).

reactant | 2-chloropyrimidine | 0.0873 mol, 10 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | 1,4-dioxa-8-azaspiro[4.5]decane | 0.2654 mol, 38 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | K2CO3 | 0.130 mol, 18 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 8-(2-Pyrimidinyl)-1,4-dioxa-8-azaspiro[4.5]decane | 9.25 g, 48% | N1=C(N=CC=C1)N1CCC2(OCCO2)CC1 | C11H15N3O2
